US05466687
1-(4-Chlorobenzoyl)-4-[2- fluoro-4-(2-oxazolin-2-yl)benzylidene]piperidine
0.4 g (0.95 mmol) of 1-(4-chlorobenzoyl)-4-[2-fluoro-4-(2-hydroxyethylaminocarbonyl)benzylidene]piperidine in 20 ml of tetrahydrofuran are treated with 0.3 g (1.1 mmol) of methyl N-(triethylamoniosulphonyl)carbamate (Burgess reagent) in portions, at boiling temperature, during the course of 45 minutes. The mixture is heated for a further 2 hours and evaporated down, and the residue is mixed with water, the mixture is extracted three times with methylene chloride, the extract is dried with anhydrous sodium sulphate and evaporated down, and the residue is purified on a Silica gel column (ethyl acetate/petroleum ether=10:4, v/v). 0.105 g (26% of theory) of the title compound of melting point 158°-160° C. is obtained.

reactant | 1-(4-chlorobenzoyl)-4-[2-fluoro-4-(2-hydroxyethylaminocarbonyl)benzylidene]piperidine | 0.95 mmol, 0.4 g | ClC1=CC=C(C(=O)N2CCC(CC2)=CC2=C(C=C(C=C2)C(=O)NCCO)F)C=C1 | C22H22ClFN2O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(4-Chlorobenzoyl)-4-[2- fluoro-4-(2-oxazolin-2-yl)benzylidene]piperidine | ClC1=CC=C(C(=O)N2CCC(CC2)=CC2=C(C=C(C=C2)C=2OCCN2)F)C=C1 | C22H20ClFN2O2
